US04464358
Optical isomer A of methyl 2-acetylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate (3.45 g., 12.5 mM) was added to 48% w/v aqueous hydrobromic acid (34 ml.). The mixture was stirred and refluxed for 4 hr. The mixture was cooled, whereupon the product crystallised. It was collected by filtration and washed with ethyl acetate. The solid was dried in vacuo at 60° to give optical isomer A of 2-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid hydrobromide.

reactant | methyl 2-acetylamino-6-methoxy-1,2,3,4-tetrahydronaphthalene-2-carboxylate | 12.5 mM, 3.45 g | C(C)(=O)NC1(CC2=CC=C(C=C2CC1)OC)C(=O)OC | C15H19NO4
reactant | hydrobromic acid | 34 ml | Br | BrH
product | 2-amino-6-hydroxy-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid hydrobromide | Br.NC1(CC2=CC=C(C=C2CC1)O)C(=O)O | InChI=1S/C11H13NO3.BrH/c12-11(10(14)15)4-3-7-5-9(13)2-1-8(7)6-11;/h1-2,5,13H,3-4,6,12H2,(H,14,15);1H
